Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with dementia, h/o falls s/p subdural 
hematoma/verterbral fx found in his room by elder protective 
services. Room was in complete disrepair with feces/urine all 
around room, old food at bedside. Brought to ED.

In ER: (Triage Vitals: 98.9 80 118/55 18 95% RA). CK elevated. 
Fluids given: 1L D5 with bicard.  Radiology Studies: CT head, 
c-spine, cxr. social work consulted.
.
Disoriented, alert but unable to answer any questions.
 
Past Medical History:
Dementia - thought to possibly be ___ ___ plus syndrome 
such as progressive supranuclear palsy
Subdural hematoma - on MRI ___
Gout
MVA - ___lock - no pacemaker given dementia
Anemia
Cholelithiasis
Bilateral fat-containing hernia
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
T 96.6 P 68 BP 114/68 RR 20 O2Sat 97% 2L  
GENERAL: awake, unable to answer questions appropriately, 
disoriented
Eyes: L pupil constricted, R pupil 3mm 
Ears/Nose/Mouth/Throat: dry MM 
Neck: supple
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: Reg S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary:  ecchymotic penis/scrotum, foley
Skin: multiple ecchymoses
Extremities: No C/C/E bilaterally 
Lymphatics/Heme/Immun: No cervical lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, disoriented. Minimal verbal output. 
Followed simple commands .

 
Pertinent Results:
Labs at admission:
___ 04:30PM   WBC-13.6*# RBC-3.39* HGB-11.1* HCT-31.3*# 
MCV-93 MCH-32.7* MCHC-35.3* RDW-13.8
___ 04:30PM   NEUTS-85.1* LYMPHS-11.8* MONOS-2.9 EOS-0.1 
BASOS-0.2
___ 04:30PM   PLT COUNT-255
___ 04:30PM   ___ PTT-26.5 ___
___ 04:30PM   GLUCOSE-113* UREA N-34* CREAT-1.0 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-27 ANION GAP-12
___ 04:30PM   ALT(SGPT)-71* AST(SGOT)-293* ___ 
ALK PHOS-124 TOT BILI-0.8
___ 04:30PM   LIPASE-16
___ 10:40PM   ___
___ 10:40PM   CREAT-0.8
___ 04:30PM   CK-MB-39* MB INDX-0.3

CXR: no infiltrate
CT head: No acute intracranial process.

Cardiac ECHO ___: 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 
IMPRESSION: Normal biventricular systolic function. Limited 
study.  

Labs at discharge:

___ 07:40AM BLOOD WBC-7.3 RBC-3.11* Hgb-10.2* Hct-30.4* 
MCV-98 MCH-32.8* MCHC-33.6 RDW-13.6 Plt ___
___ 07:40AM BLOOD Ret Aut-1.7
___ 07:40AM BLOOD Glucose-104* UreaN-18 Creat-0.7 Na-139 
K-3.9 Cl-106 HCO3-28 AnGap-9
___ 07:40AM BLOOD CK(CPK)-1369*
___ 08:15AM BLOOD CK-MB-22* MB Indx-0.2 cTropnT-<0.01 
proBNP-1185*
___ 07:40AM BLOOD Calcium-8.1* Phos-2.9
___ 07:25AM BLOOD calTIBC-160* VitB12-710 Folate-9.4 
___ Ferritn-413* TRF-123*
___ 04:43PM BLOOD Glucose-108* Lactate-1.___ yo M with dementia, h/o falls s/p subdural 
hematoma/verterbral fx found in his room under bed by elder 
protective services with evidence of rhabdomyolysis.

#Rhabdomyolysis:
-with aggressive diuresis, CPK improved from 13,000 on admission 
to 1,300 at discharge. 
-renal function remained normal

#Cardiac
-LVEF normal (obtained given age, need for aggressive diuresis, 
and elevated BNP)

#Dementia 
- likely Parkinsons plus syndrome likely either progressive 
supranuclear palsey vs vascular parkinsonism
- metabolic encephalopathy/delirium in addition due to acute 
illness improved 
-Geriatrics consulted and followed the patient - reccommended 
that given his Parkinsons plus syndrome, if he should need 
antipsychotic medications to manage agitation he should receive 
seroquel or risperidone and not haloperidol 
-social work involved and has been in contact with elder 
services regarding his failure to thrive at home
-His PCP's notes here suggest that functional status at home 
declining, multiple falls. Missed last appointment with his PCP 
in ___ daughter is his legal guardian,a nd also his caretaker at 
home
-heat CT negative for acute changes
.
#Leukocytosis
   -No evidence of ioinfection - neg UA, CXR without infiltrate
   -Normalized without antibiotics
   -afebrile currently

#Chronic Anemia
  -HCT dropped with IV hidration - not unexpected. Returned 
toward baseline once IVF discontinued

#Swallowing
-was seen by Speech Pathology. They did not feel that he is at 
increased risk for aspiration but that he needs assistance with 
feeding.
SPEECH THERAPYT RECOMMENDATIONS:
1. PO diet of thin liquids and regular consistency solids
2. Meds whole with water as tolerated
3. 1:1 supervision for meals to assist with feeding
4. TID oral care
5. If there are further concerns for aspiration, please 
reconsult
for a video swallow

Disposition: LTACH

Time spent on discharge-related activities = 40 minutes
 
Medications on Admission:
none
 
Discharge Medications:
1. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) ml 
Injection TID (3 times a day).  
2. cyanocobalamin (vitamin B-12) 250 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
4. ferrous sulfate 300 mg (60 mg iron)/5 mL Liquid Sig: Five (5) 
ml PO DAILY (Daily).  
5. therapeutic multivitamin     Liquid Sig: Five (5) ML PO DAILY 
(Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Rhabdomyolysis
Metabolic encephalopathy
Parkinsonian plus syndrome with dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted after being found on the floor, unable to get 
up. You had developed a condition called rhabdomyolysis which 
improved with intravenous fluids. It was felt by the medical 
team that you need further medical treatments, medication 
adjustments, close monitoring by a physician (daily), and 
intensive physical and occupational therapy. Psychiatry and 
Neurology evaluations reccommended.
 
Followup Instructions:
___